US04167569
4-Chloro-3-nitrobenzophenone (10 g.) was added to a mixture of 3-aminopropionic acid (β-alanine) (10.1 g.) and sodium hydrogen carbonate (9.6 g.) in 2-methoxyethanol (100 ml.) which was then heated under reflux for 4 hours. The mixture was cooled, poured into ice-water (250 ml.) and brought to pH 3 by addition of concentrated hydrochloric acid. The solid obtained was filtered, washed with water and air-dried to give 3-(4-benzoyl-2-nitroanilino)propionic acid (12.1 g), m.p. 170°-5° C.

reactant | 4-Chloro-3-nitrobenzophenone | 10 g | ClC1=C(C=C(C(=O)C2=CC=CC=C2)C=C1)[N+](=O)[O-] | C13H8ClNO3
reactant | 3-aminopropionic acid | 10.1 g | NCCC(=O)O | C3H7NO2
reactant | sodium hydrogen carbonate | 9.6 g | C(O)([O-])=O.[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | 2-methoxyethanol | 100 ml | COCCO | C3H8O2
product | 3-(4-benzoyl-2-nitroanilino)propionic acid | 12.1 g | C(C1=CC=CC=C1)(=O)C1=CC(=C(NCCC(=O)O)C=C1)[N+](=O)[O-] | C16H14N2O5
